US04071627
Anhydrous hydrogen fluoride (3.0 g, 0.15 mole) was added to 150 ml of methylene chloride at -10° C. Then 8.6 g of methylisocyanate was added, followed by 20.9 g (0.15 mole) of N,N-diethylaminosulfenyl chloride at 0° C. Triethylamine (15.2 g) was then added at 0° C over a 15-minute period, and the mixture was stirred at +5° C for 1 hour. The mixture was then extracted with water (100 ml), saturated sodium bicarbonate solution, and water again. After drying (MgSO4), the solvent was removed in vacuo, and the crude residue was vacuum distilled to give 17 g of N-methyl-N-(diethylamino-sulfenyl carbamoyl fluoride, b.p. 57° C/0.8 mm (62.9 percent yield).

reactant | hydrogen fluoride | 0.15 mole, 3.0 g | F | FH
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
reactant | methylisocyanate | 8.6 g | CN=C=O | C2H3NO
reactant | N,N-diethylaminosulfenyl chloride | 0.15 mole, 20.9 g | C(C)N(SCl)CC | C4H10ClNS
solvent | Triethylamine | 15.2 g | C(C)N(CC)CC | C6H15N
product | diethylamino-sulfenyl carbamoyl fluoride | 62.9 percent yield | C(C)N(SNC(=O)F)CC | C5H11FN2OS
